US05498630
N-Ethyl-2 -(trimethylsilyl)benzamide
N-Ethylbenzamide (74.5 g, 500 mmol) and TMSCl (135.8 g, 1.25 mol) were combined according to General Method C and purified by HPLC with 1:4 ethyl acetate/hexanes to afford 75.59 g of the title compound, as a white solid, a 68% yield. m.p. 64.0°-66.0° C.

reactant | N-Ethylbenzamide | 500 mmol, 74.5 g | C(C)NC(C1=CC=CC=C1)=O | C9H11NO
reactant | TMSCl | 1.25 mol, 135.8 g | C[Si](C)(C)Cl | C3H9ClSi
product | N-Ethyl-2 -(trimethylsilyl)benzamide | 75.59 g, 68% yield | C(C)NC(C1=C(C=CC=C1)[Si](C)(C)C)=O | C12H19NOSi
